US07199133B2
11.1 g of caesium carbonate (34.0 mmol) are added to a solution of 6.50 g (22.2 mmol) of N-(2-methyl-4-nitrophenyl)-3-chloropropane-1-sulfonamide in 150 ml of acetonitrile, and the mixture is stirred at 70° C. for 18 hours. The reaction mixture is subjected to conventional work-up, and the crude product is chromatographed on a silica-gel column using ethyl acetate/petroleum ether as eluent, giving 2-(2-methyl-4-nitrophenyl)isothiazolidine 1,1-dioxide as a yellowish solid; ESI 257.

reactant | caesium carbonate | 34.0 mmol, 11.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-(2-methyl-4-nitrophenyl)-3-chloropropane-1-sulfonamide | 22.2 mmol, 6.50 g | CC1=C(C=CC(=C1)[N+](=O)[O-])NS(=O)(=O)CCCCl | C10H13ClN2O4S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-(2-methyl-4-nitrophenyl)isothiazolidine 1,1-dioxide | CC1=C(C=CC(=C1)[N+](=O)[O-])N1S(CCC1)(=O)=O | C10H12N2O4S
